### ISSUE TITLE
Eliminate SL-POS-COLLISION: positive-collision marked-tail branch

### ISSUE THREAD

**Issue by elazarg** [elazarg/UniformEquilibrium#7]
For every finite quitting reward table, counterexample regime, and selected stopping-law frontier, eliminate packets satisfying

```lean
packet.observer ∈ packet.terminal.val ∧
  1 < packet.terminal.val.card ∧
  0 < reward packet.terminal packet.observer ∧
  HasQuittingStoppingLawPositiveCollisionMarkedTailDispatch packet
    ((packet.charge / 4) /
      ((Fintype.card (QuittingTerminalOutcome ι) : ℝ) *
        quittingRewardBound reward))
```

The reached-row localization may be used, but source re-entry or an equivalent contradiction must be proved. A stronger theorem compiling this branch to a uniform-equilibrium payoff also closes the issue.

Acceptance: no additional hypotheses; the canonical exhaustive localization omits `SL-POS-COLLISION`; `docs/QuittingProofFrontier.json` and generated documentation are updated.

**Comment by elazarg** [comment]
The positive-collision branch has a **direct causal reduction to an observer-absent row**.

Let (o) be the packet observer, (S\ni o) the marked collision coalition, and (t_n) the selected finite Quit date. On the target profile (P_n),

[
x_{n,t_n,o}=\mathrm Q,\qquad
m_{P_n,t_n}(S)\ge \alpha>0.
]

Put

[
A:=S\setminus{o}.
]

Because (|S|>1), (A\neq\varnothing), and (o\notin A).

Now replace only (o)’s action at the marked row by Continue, resuming its original continuation afterward:

[
P_n^- :=
P_n\bigl[o\leftarrow
\text{Continue at }t_n\text{, then resume }P_n
\bigr].
]

This is one ordinary stage deviation. It changes neither the probability of reaching (t_n) nor any opponent’s action there. Since (o) originally Quits surely, the stage coalition is changed exactly from (S) to (A). Hence

[
m_{P_n^-,t_n}(A)
=m_{P_n,t_n}(S)
\ge \alpha. \tag{1}
]

The identity is exact, not asymptotic. At the root level it is simply

[
p_{\operatorname{update}(x,o,\mathrm C)}(S\setminus{o})
=======================================================

p_x(S)
\quad
\text{when }x_o=\mathrm Q,\ o\in S.
]

The library already contains the two ingredients needed to formalize this without any law-level approximation:

[
L_{P_n^-}(t_n)=L_{P_n}(t_n)
]

for the live mass, and the exact pure-coordinate root update at the reached stage. Those are the lemmas
`quittingLiveMass_stagePureEndpoint_eq` and
`quittingProfileLiveRoot_stagePureEndpoint_self`.

## Why this eliminates the positive leaf

The observer-absent wall does not fundamentally use the original rectangle atom. What it consumes at each relevant row is precisely:

1. a nonempty coalition (A) not containing the observer;
2. a positive lower bound on its actual stage mass;
3. the observer literally playing Continue;
4. a member (k\in A) that can be forced to Quit while preserving the (A)-cylinder;
5. the counterexample atomic-blocker inequality at that forced root.

The delayed profile (P_n^-) has all five properties at the single row (t_n):

[
o\notin A,\qquad
m_{P_n^-,t_n}(A)\ge\alpha,\qquad
x^-_{n,t_n,o}=\mathrm C.
]

Choose any fixed (k\in A). Forcing (k) to Quit does not alter the (A)-cylinder, since (k\in A). Thus the forced root carries the same quantitative incidence and the counterexample regime gives

[
\eta
\le
\max!\left{
\operatorname{OutsiderDefect}(x^-*{n,t_n}[k:=\mathrm Q],k),
,
\bigl[-\operatorname{BlockerBalance}
(x^-*{n,t_n}[k:=\mathrm Q],k)\bigr]_+
\right}, \tag{2}
]

where (\eta) is the terminal exploitability gap. Multiplying by (1),

[
\alpha\eta
\le
m_{P_n^-,t_n}(A),
\max!\left{
\operatorname{OutsiderDefect},
[-\operatorname{BlockerBalance}]_+
\right}. \tag{3}
]

This is exactly the charged observer-absent forced-owner wall, except that its clock consists of one selected row rather than the full pre-observer clock. The existing producer stores a complete clock only because an observer-absent **terminal-law atom** must first be disintegrated over all preemption times. Here the positive-collision packet has already supplied the causal time. The extra clock structure is unnecessary. The current observer-absent definition confirms that its rowwise payload is precisely the sure-Continue observer, retained forced-owner cylinder, and mass-weighted atomic barrier appearing in (2)–(3).

Therefore the correct interface is a common row-level wall:

[
\operatorname{HasObserverAbsentForcedOwnerRow}
(P,t,A,o,k,\alpha),
]

with two producers:

* the existing observer-absent law packet, after selecting a charged row from its clock;
* the positive-collision packet, after deleting (o) at its already selected row.

The already solved `SL-ABSENT-WALL` consumer applies to this row-level certificate. Nothing in that consumer may legitimately depend on whether the charged row was obtained by law disintegration or by this exact causal deletion: its input is the executable forced row and its mass-weighted barrier.

Thus the reduction is

[
\boxed{\texttt{SL-POS-COLLISION}
\Longrightarrow
\texttt{SL-ABSENT-WALL}}
]

with no new hypothesis and no source-reentry theorem.

## Lean core

The central new lemma should have essentially this form:

```lean
theorem quittingStageCoalitionMass_erase_of_stagePureContinue
    (profile : (quittingGame reward).BehaviorProfile)
    (observer : ι) (time : ℕ)
    (terminal : {S : Finset ι // S.Nonempty})
    (hmem : observer ∈ terminal.val)
    (hnonsingleton : 1 < terminal.val.card)
    (hsure :
      quittingProfileLiveRoot reward profile time observer =
        PMF.pure true) :
    let erased : {S : Finset ι // S.Nonempty} :=
      ⟨terminal.val.erase observer,
        (Finset.erase_nonempty_iff_nontrivial.mpr
          ⟨terminal.val, hnonsingleton⟩)⟩
    let delayed :=
      Function.update profile observer
        (quittingStagePureEndpointBehaviorDeviation
          reward profile observer time false)
    quittingStageCoalitionMass reward delayed time erased =
      quittingStageCoalitionMass reward profile time terminal := by
  dsimp only
  rw [quittingStageCoalitionMass_eq_liveMass_mul_rootCoalitionMass,
      quittingStageCoalitionMass_eq_liveMass_mul_rootCoalitionMass,
      quittingLiveMass_stagePureEndpoint_eq,
      quittingProfileLiveRoot_stagePureEndpoint_self]
  -- unfold the product coalition masses;
  -- use `hsure`, `hmem`, and the erase/insert product identities.
```

Then package:

```lean
theorem positiveCollisionMarkedTailDispatch_delayedAbsentRow
    ...
    (dispatch :
      HasQuittingStoppingLawPositiveCollisionMarkedTailDispatch packet lower) :
    HasQuittingStoppingLawObserverAbsentForcedOwnerRow
      regime lower := ...
```

The proof uses only the eventual finite-stop and marked-stage-mass fields of `dispatch`; neither the tail cluster nor its escape/minimum-fiber alternative is needed. Those fields were artifacts of the attempted marked-tail route. The exact dispatch definition exposes the necessary stop and stage-mass data.

Consequently, `SL-POS-COLLISION` is not a genuinely separate branch. It is an observer-absent forced-owner row seen one stage before the observer’s deterministic Quit. The observer’s positive reward and vanishing debt are needed only to produce the persistent target collision; once its causal row is known, deleting the observer at that row is exact and loses no charge.

This also explains why the prior regressions do not obstruct the argument. They show that the observer’s positive atom need not give the observer a marked-row defect.  The reduction does not use such a defect. It uses the atom only to obtain positive collision mass, then changes the observer’s marked action to expose the already charged lower face (S\setminus{o}).

**Comment by elazarg** [comment]
Status after formalizing the proposed causal erasure:

The nonsingleton case reduces exactly to the observer-absent wall, but Issue #7 remains open.

Let the selected observer be `o ∈ S`, assume `S` has at least two members, and suppose `o` surely Quits at the selected row. Replacing only `o`'s action at that row by Continue gives the exact identity:

```text
stageMass(P, t, S)
  = stageMass(P[o := Continue at t], t, S.erase o)
```

The erased coalition is nonempty, so one may select a forced owner from it. The modified row is observer-absent, retains the exact charged mass, and satisfies the forced-owner barrier. The Lean formalization checks this both for the earlier positive-target marked-row packet and for the bounded-self-reset target row under the explicit nonsingleton premise.

The canonical bounded-self-reset target branch is cardinality-free. If `S = {o}`, erasure produces the empty coalition, so this argument does not yield an observer-absent terminal label. The existing singleton-face theorem does not yet supply the adapter from this bounded-self-reset provenance.

Therefore the exact residual in Issue #7 is the singleton target row `S = {o}`. The issue should close only after a Lean theorem does one of the following:

- proves that this singleton terminal cannot be selected;
- routes it through the existing singleton elimination theorem; or
- compiles it directly to the observer-absent wall, another established contradiction, or uniform-payoff existence.

Thus the old nonsingleton positive-collision obstruction is removed; the cardinality-free issue is not yet closed.

**Comment by elazarg** [comment]
The empty-set obstruction can be bypassed by **replacing (o) with another player at the same row**, rather than merely erasing (o).

Let

[
P_n:=\text{the bounded-self-reset endpoint},\qquad
t_n:=\text{its final deterministic stopping time},
]

and write

[
\gamma:=\text{the counterexample terminal gap},\qquad
\alpha:=\frac1{#{T\subseteq I:T\neq\varnothing}}.
]

In the singleton branch, the bounded-reset data give

[
P_{n,o}=\tau_{t_n},\qquad
d_o(P_n)\le \varepsilon_n<\gamma,\qquad
\mu_{P_n}({o})\ge\alpha.
]

These are exactly the final pure-time, residual-debt, and terminal-mass fields retained by the bounded self-reset sequence.

## 1. There is a fixed relay player (j\neq o)

Apply the terminal-gap property to (P_0). There is some (j) such that

[
d_j(P_0)\ge\gamma.
]

But

[
d_o(P_0)\le\varepsilon_0<\gamma,
]

so necessarily

[
j\neq o.
]

Thus a one-player counterexample is already excluded, and one fixed (j\neq o) can be used at every rank. No subsequence extraction is needed here.

## 2. Delay (o), and force (j) at the vacated row

Define the relay profile

[
R_n
:=
P_n\Bigl[
o\leftarrow\tau_{t_n+1},
\quad
j\leftarrow\text{Quit at }t_n
\Bigr],
]

where (j)'s strategy is unchanged away from (t_n).

At time (t_n):

* (R_n) and (P_n) have the same probability of reaching the row;
* (o) Quits surely in (P_n), but Continues surely in (R_n);
* (j) Quits surely in (R_n);
* every (k\notin{o,j}) uses the same root action in both profiles.

Let (L_n) be the common live mass at (t_n), and let (c_{k,n}) be player (k)'s Continue probability at that row in (P_n). Then

[
m_{P_n,t_n}({o})
================

L_n,c_{j,n}\prod_{k\neq o,j}c_{k,n},
]

whereas

[
m_{R_n,t_n}({j})
================

L_n\prod_{k\neq o,j}c_{k,n}.
]

Consequently, the exact relation is

[
m_{P_n,t_n}({o})
================

c_{j,n},m_{R_n,t_n}({j}),
]

and hence

[
m_{R_n,t_n}({j})
\ge m_{P_n,t_n}({o}). \tag{1}
]

Because (o) uses the pure time (t_n) in (P_n), a terminal outcome containing (o) can occur only at that row. Therefore

[
\mu_{P_n}({o})
==============

m_{P_n,t_n}({o}). \tag{2}
]

Combining the terminal lower bound, (1), and (2),

[
\mu_{R_n}({j})
\ge
m_{R_n,t_n}({j})
\ge
m_{P_n,t_n}({o})
================

\mu_{P_n}({o})
\ge\alpha. \tag{3}
]

Thus the singleton mass has not been lost. It has been transferred from the event ({o}) to the observer-absent event ({j}).

## 3. This is exactly an observer-absent carrier

In (R_n),

[
R_{n,o}=\tau_{t_n+1},
\qquad
o\notin{j}.
]

Hence

[
\mu_{R_n}({j})
==============

\sum_{s<t_n+1}m_{R_n,s}({j}),
]

and (3) supplies the same uniform lower bound (\alpha) on that finite pre-observer clock. The row (s=t_n) alone already carries at least (\alpha).

Therefore the generic observer-absent producer applies to the data

[
\bigl(R_n,\ o,\ t_n+1,\ {j},\ \alpha\bigr).
]

The transformation is entirely executable: (R_n) is an ordinary behavioral profile, (o) has a finite pure stopping time, and ({j}) is a fixed nonempty terminal coalition excluding (o).

The reduction is therefore

[
\boxed{
S={o}
\Longrightarrow
\text{delay }o\text{ by one row and force }j\neq o
\Longrightarrow
\text{observer-absent wall on }{j}.
}
]

## Lean interface

The first lemma should isolate the existence of the relay label:

```lean
theorem
  QuittingBoundedSelfResetTerminalSequence.exists_other
    (sequence :
      QuittingBoundedSelfResetTerminalSequence regime starts) :
    ∃ other, other ≠ sequence.observer := by
  obtain ⟨other, hotherDebt⟩ :=
    regime.exists_terminalGap_le_terminalSemanticDebt
      reward (sequence.profile 0)
  refine ⟨other, ?_⟩
  intro hEq
  subst other
  have hfinal :=
    (sequence.chain 0).final_debt_le_error
  have herror :=
    quittingCounterexampleSelfResetAccuracy_lt_terminalGap
      regime (sequence.subseq 0)
  linarith
```

The reusable root calculation is:

```lean
theorem quittingRootCoalitionMass_singletonRelay
    (root : ι → PMF Bool) (observer other : ι)
    (hne : other ≠ observer) :
    quittingRootCoalitionMass root {observer} ≤
      quittingRootCoalitionMass
        (Function.update
          (Function.update root observer (PMF.pure false))
          other (PMF.pure true))
        {other} := by
  -- Route `{observer}` through `observer := Continue` to `∅`,
  -- then route `∅` through `other := Quit` to `{other}`.
```

This can be proved by two applications of the existing pure-endpoint routed-coalition inequality; the intermediate coalition is allowed to be empty at the root level.

Then define:

```lean
def quittingBoundedSelfResetSingletonRelayBase
    (sequence : QuittingBoundedSelfResetTerminalSequence regime starts)
    (other : ι) (rank : ℕ) :
    (quittingGame reward).BehaviorProfile :=
  Function.update (sequence.profile rank) other
    (quittingStagePureEndpointBehaviorDeviation
      reward (sequence.profile rank) other
      (sequence.stop rank) true)

def quittingBoundedSelfResetSingletonRelayQuitTime
    (sequence : QuittingBoundedSelfResetTerminalSequence regime starts)
    (rank : ℕ) : Option ℕ :=
  some (sequence.stop rank + 1)
```

The main mass lemma is

```lean
theorem
  QuittingBoundedSelfResetTerminalSequence.singleton_mass_le_relay_mass
    (sequence :
      QuittingBoundedSelfResetTerminalSequence regime starts)
    (hsingleton :
      sequence.terminal.val = {sequence.observer})
    {other : ι} (hne : other ≠ sequence.observer)
    (rank : ℕ) :
    quittingTerminalOutcomeMass reward
        (sequence.profile rank) (some sequence.terminal) ≤
      quittingTerminalOutcomeMass reward
        (quittingPureTimeCarrierProfile reward
          (quittingBoundedSelfResetSingletonRelayBase sequence other)
          sequence.observer
          (quittingBoundedSelfResetSingletonRelayQuitTime sequence)
          rank)
        (some (quittingSingletonTerminal other)) := by
  -- original singleton terminal mass
  --   = original stage-{observer} mass at `stop rank`
  --   ≤ relay stage-{other} mass at the same row
  --   ≤ relay terminal-{other} mass
```

Finally:

```lean
theorem
  QuittingBoundedSelfResetTerminalSequence.singleton_relayObserverAbsent
    (sequence :
      QuittingBoundedSelfResetTerminalSequence regime starts)
    (hsingleton :
      sequence.terminal.val = {sequence.observer}) :
    ∃ other, other ≠ sequence.observer ∧
      HasQuittingPureTimeObserverAbsentForcedOwnerDispatch
        (regime := regime)
        (quittingBoundedSelfResetSingletonRelayBase sequence other)
        sequence.observer
        (quittingBoundedSelfResetSingletonRelayQuitTime sequence)
        (quittingSingletonTerminal other)
        (quittingBoundedSelfResetTerminalMassFloor ι) := by
  obtain ⟨other, hne⟩ := sequence.exists_other
  refine ⟨other, hne, ?_⟩
  apply pureTimeObserverAbsent_forcedOwnerDispatch
  · simp [hne]
  · exact quittingBoundedSelfResetTerminalMassFloor_pos other
  · intro rank
    exact (sequence.terminal_mass_lower rank).trans
      (sequence.singleton_mass_le_relay_mass
        hsingleton hne rank)
```

The relay profiles need not themselves be packaged as bounded-self-reset endpoints. The observer-absent consumer only needs actual profiles, a pure-time observer, a fixed absent terminal, and its mass lower bound. That is also the interface required by the already solved nonsingleton erasure case.

Hence every observer-containing bounded-reset terminal reduces to the observer-absent wall:

[
o\in S
\Longrightarrow
\begin{cases}
|S|>1 &: \text{erase }o,[2mm]
S={o} &: \text{replace }o\text{ by a fixed relay player }j.
\end{cases}
]

So `RESET-TARGET-ROW` is not a separate leaf. The only remaining obstruction is the globally coupled rectangle-consumption problem inside `RESET-ABSENT-WALL`; the existing issue analysis correctly identifies that wall’s outsider arm as the unresolved source-mismatch term.  This completes the elimination required for the positive-target issue.

**Comment by elazarg** [comment]
Superseded by #40
